US07622471B2
1) 4-Fluoropiperidine-N-carboxylic acid tert-butyl ester
In an argon atmosphere and while cooling at −78° C., [bis(2-methoxyethyl)amino]sulfur trifluoride (7.33 mL) was added dropwise to 4-hydroxy-1-piperidinecarboxylic acid tert-butyl ester (4.00 g) in methylene chloride (80 mL), followed by stirring for 30 minutes. The resultant mixture was stirred at 0° C. for 30 minutes and then at room temperature for 2 hours. The reaction mixture was partitioned by use of saturated aqueous sodium hydrogencarbonate and chloroform. The organic layer was dried over sodium sulfate anhydrate, followed by filtration. The solvent was removed under reduced pressure, and the residue was purified through silica gel column chromatography (chloroform-ethyl acetate) to thereby give 4-fluoropiperidine-N-carboxylic acid tert-butyl ester as an oily product (1.77 g, 44%).

reactant | [bis(2-methoxyethyl)amino]sulfur trifluoride | 7.33 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | 4-hydroxy-1-piperidinecarboxylic acid tert-butyl ester | 4.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluoropiperidine-N-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)F | C10H18FNO2
